US08754068B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-(4-(methylsulfonylcarbamoyl)phenyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid
The title compound was prepared from the procedure described above for (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-benzyl 9-(4-(chlorocarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate using methanesulfonamide as the reactant sulfonamide. The title compound was isolated as a white solid (3.2 mg, 7%). LCMS: m/e 636.51 (M+H)+, 2.13 min (method 7). 1H NMR (500 MHz, DMSO-D6) δ ppm 0.88 (d, J=3.05 Hz, 6H), 0.94 (s, 6H), 0.98 (s, 3H), 1.11-1.62 (m, 15H), 1.63-1.72 (m, 5H), 1.77-1.88 (m, 2H), 2.03-2.17 (m, 2H), 2.24-2.35 (m, 1H), 2.97 (d, J=4.58 Hz, 1H), 3.57 (s, 3H), 4.58 (s, 1H), 4.71 (d, J=1.83 Hz, 1H), 5.23 (d, J=4.58 Hz, 1H), 7.17 (d, J=8.24 Hz, 2H), 7.86 (d, J=8.24 Hz, 2H), 12.03 (s, 1H), 12.10 (br. s., 1H).

reactant | (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-benzyl 9-(4-(chlorocarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | ClC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C44H55ClO3
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
product | (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-(4-(methylsulfonylcarbamoyl)phenyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | C[C@]12CC[C@@]3([C@@H]([C@H]2CCC2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C=C1)C(NS(=O)(=O)C)=O)C)[C@@H](CC3)C(=C)C)C(=O)O | C38H53NO5S
